*---------- DMS3015SSS Spice Model ----------
* Renamed to GP_MOSFETN for general purpose mosfet emulation

.SUBCKT GP_MOSFETN 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.00327 
RS 30 3 0.001 
RG 20 2 1.48 
CGS 2 3 1.174E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 1.297E-009 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
D3 3 10  DS 
D4 3 10  DL 
D5 3 16  DR 
D6 10 16  DB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 1E+006  ETA = 0.01379  VTO = 1.824 
+ TOX = 6E-008  NSUB = 4.849E+016  KP = 64.51  KAPPA = 1E-015  U0 = 400 
.MODEL DCGD D  CJO = 7.171E-010  VJ = 0.2386  M = 0.3999 
.MODEL DLIM D  IS = 4.441E-010 
.MODEL DS D  IS = 1.011E-012  N = 0.9  RS = 0.007376 
.MODEL DL D  IS = 1.416E-007  N = 0.8743  RS = 0.2205  VJ = 0.5878  CJO = 4.376E-010  M = 0.9 
.MODEL DR D  IS = 1.3E-006  N = 0.6 
.MODEL DB D  IS = 2.239E-008  N = 0.6 
.ENDS

*---------- GP_MOSFETP Spice Model ----------
* Derived from above, converting to PMOS to NMOS and changing the direction
* of the drain-source diode.

.SUBCKT GP_MOSFETP 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.00327 
RS 30 3 0.001 
RG 20 2 1.48 
CGS 2 3 1.174E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 1.297E-009 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
D3 3 10  DS 
D4 3 10  DL 
D5 3 16  DR 
D6 10 16  DB 
.MODEL PMOS PMOS  LEVEL = 3  VMAX = 1E+006  ETA = 0.01379  VTO = -1.824 
+ TOX = 6E-008  NSUB = 4.849E+016  KP = 64.51  KAPPA = 1E-015  U0 = 400 
.MODEL DCGD D  CJO = 7.171E-010  VJ = 0.2386  M = 0.3999 
.MODEL DLIM D  IS = 4.441E-010 
.MODEL DS D  IS = 1.011E-012  N = 0.9  RS = 0.007376 
.MODEL DL D  IS = 1.416E-007  N = 0.8743  RS = 0.2205  VJ = 0.5878  CJO = 4.376E-010  M = 0.9 
.MODEL DR D  IS = 1.3E-006  N = 0.6 
.MODEL DB D  IS = 2.239E-008  N = 0.6 
.ENDS



*---------- DMP4015SK3 Spice Model ----------
* Renamed to GP_MOSFETPa for general purpose mosfet emulation

.SUBCKT GP_MOSFETPa 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.00327 
RS 30 3 0.001 
RG 20 2 1.48 
CGS 2 3 1.174E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 1.297E-009 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 1E+006  ETA = 0.02012  
+ TOX = 5E-008  NSUB = 1E+016  KP = 82.85  KAPPA = 0.001  VTO = -2.609 
.MODEL DCGD D  CJO = 1.762E-009  VJ = 0.4937  M = 0.3181 
.MODEL DSUB D  IS = 1.247E-011  N = 1.091  RS = 0.004133  BV = 45  CJO = 1.6E-009  VJ = 0.437  M = 0.3036 
.MODEL DLIM D  IS = 0.0001 
.ENDS
*Diodes DMP4015SK3 Spice Model v1.0 Last Revised 2012/1/13
