.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	9.057E-10	)
+	(	1	8.993E-10	)
+	(	2	8.96E-10	)
+	(	3	8.959E-10	)
+	(	4	8.992E-10	)
+	(	5	9.034E-10	)
+	(	6	9.072E-10	)
+	(	7	9.2513E-10	)
+	(	8	9.5376E-10	)
+	(	9	9.5416E-10	)
+	(	10	9.5294E-10	)
+	(	11	9.5257E-10	)
+	(	12	9.521E-10	)
+	(	13	9.5156E-10	)
+	(	14	9.5001E-10	)
+	(	15	9.4942E-10	)
+	(	16	9.488E-10	)
+	(	17	9.4814E-10	)
+	(	18	9.4745E-10	)
+	(	19	9.4675E-10	)
+	(	20	9.4603E-10	)
+	(	21	9.4532E-10	)
+	(	22	9.4462E-10	)
+	(	23	9.4392E-10	)
+	(	24	9.4323E-10	)
+	(	25	9.4256E-10	)
+	(	26	9.4192E-10	)
+	(	27	9.413E-10	)
+	(	28	9.4071E-10	)
+	(	29	9.4013E-10	)
+	(	30	9.3957E-10	)
+	(	31	9.39E-10	)
+	(	32	9.3842E-10	)
+	(	33	9.3781E-10	)
+	(	34	9.3715E-10	)
+	(	35	9.3546E-10	)
+	(	36	9.3473E-10	)
+	(	37	9.3396E-10	)
+	(	38	9.3316E-10	)
+	(	39	9.3233E-10	)
+	(	40	9.3147E-10	)
+	(	41	9.306E-10	)
+	(	42	9.297E-10	)
+	(	43	9.2879E-10	)
+	(	44	9.2786E-10	)
+	(	45	9.2692E-10	)
+	(	46	9.2597E-10	)
+	(	47	9.2402E-10	)
+	(	48	9.2305E-10	)
+	(	49	9.2207E-10	)
+	(	50	9.211E-10	)
+	(	51	9.2011E-10	)
+	(	52	9.1912E-10	)
+	(	53	9.1813E-10	)
+	(	54	9.1614E-10	)
+	(	55	9.1515E-10	)
+	(	56	9.1415E-10	)
+	(	57	9.1316E-10	)
+	(	58	9.1218E-10	)
+	(	59	9.1019E-10	)
+	(	60	9.0921E-10	)
+	(	61	9.0823E-10	)
+	(	62	9.0726E-10	)
+	(	63	9.0628E-10	)
+	(	64	9.0431E-10	)
+	(	65	9.0334E-10	)
+	(	66	9.0237E-10	)
+	(	67	9.004E-10	)
+	(	68	8.9944E-10	)
+	(	69	8.9847E-10	)
+	(	70	8.9751E-10	)
+	(	71	8.9555E-10	)
+	(	72	8.9458E-10	)
+	(	73	8.9362E-10	)
+	(	74	8.9166E-10	)
+	(	75	8.907E-10	)
+	(	76	8.8974E-10	)
+	(	77	8.8777E-10	)
+	(	78	8.8681E-10	)
+	(	79	8.8585E-10	)
+	(	80	8.8389E-10	)
+	(	81	8.8292E-10	)
+	(	82	8.8196E-10	)
+	(	83	8.7999E-10	)
+	(	84	8.7903E-10	)
+	(	85	8.7807E-10	)
+	(	86	8.761E-10	)
+	(	87	8.7514E-10	)
+	(	88	8.7317E-10	)
+	(	89	8.722E-10	)
+	(	90	8.7124E-10	)
+	(	91	8.6927E-10	)
+	(	92	8.683E-10	)
+	(	93	8.6733E-10	)
+	(	94	8.6536E-10	)
+	(	95	8.6439E-10	)
+	(	96	8.6241E-10	)
+	(	97	8.6238E-10	)
+	(	98	8.6234E-10	)
+	(	99	8.623E-10	)
+	(	100	8.6226E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	7.66E-10	)
+	(	1	6.79E-10	)
+	(	2	6.01E-10	)
+	(	3	5.4E-10	)
+	(	4	4.69E-10	)
+	(	5	4.01E-10	)
+	(	6	3.39E-10	)
+	(	7	2.22E-10	)
+	(	8	7.01E-11	)
+	(	9	6.07E-11	)
+	(	10	5.78E-11	)
+	(	11	5.6E-11	)
+	(	12	5.4E-11	)
+	(	13	5.26E-11	)
+	(	14	5.1E-11	)
+	(	15	4.93E-11	)
+	(	16	4.83E-11	)
+	(	17	4.74E-11	)
+	(	18	4.64E-11	)
+	(	19	4.56E-11	)
+	(	20	4.43E-11	)
+	(	21	4.38E-11	)
+	(	22	4.31E-11	)
+	(	23	4.24E-11	)
+	(	24	4.12E-11	)
+	(	25	4.06E-11	)
+	(	26	3.99E-11	)
+	(	27	3.92E-11	)
+	(	28	3.83E-11	)
+	(	29	3.75E-11	)
+	(	30	3.67E-11	)
+	(	31	3.54E-11	)
+	(	32	3.47E-11	)
+	(	33	3.37E-11	)
+	(	34	3.25E-11	)
+	(	35	3.2E-11	)
+	(	36	3.14E-11	)
+	(	37	3.09E-11	)
+	(	38	2.97E-11	)
+	(	39	2.95E-11	)
+	(	40	2.88E-11	)
+	(	41	2.9E-11	)
+	(	42	2.85E-11	)
+	(	43	2.83E-11	)
+	(	44	2.94E-11	)
+	(	45	2.94E-11	)
+	(	46	2.93E-11	)
+	(	47	2.93E-11	)
+	(	48	2.94E-11	)
+	(	49	2.94E-11	)
+	(	50	2.95E-11	)
+	(	51	2.96E-11	)
+	(	52	2.97E-11	)
+	(	53	2.98E-11	)
+	(	54	2.99E-11	)
+	(	55	3E-11	)
+	(	56	3.01E-11	)
+	(	57	3.02E-11	)
+	(	58	3.03E-11	)
+	(	59	3.03E-11	)
+	(	60	3.04E-11	)
+	(	61	3.05E-11	)
+	(	62	3.05E-11	)
+	(	63	3.05E-11	)
+	(	64	3.06E-11	)
+	(	65	3.06E-11	)
+	(	66	3.06E-11	)
+	(	67	3.06E-11	)
+	(	68	3.07E-11	)
+	(	69	3.07E-11	)
+	(	70	3.07E-11	)
+	(	71	3.07E-11	)
+	(	72	3.07E-11	)
+	(	73	3.07E-11	)
+	(	74	3.07E-11	)
+	(	75	3.06E-11	)
+	(	76	3.06E-11	)
+	(	77	3.06E-11	)
+	(	78	3.06E-11	)
+	(	79	3.06E-11	)
+	(	80	3.06E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	8.4125E-09	)
+	(	1	7.1664E-09	)
+	(	2	6.2793E-09	)
+	(	3	5.6324E-09	)
+	(	4	5.109E-09	)
+	(	5	4.7012E-09	)
+	(	6	4.3332E-09	)
+	(	7	3.7999E-09	)
+	(	8	3.02288E-09	)
+	(	9	2.6903E-09	)
+	(	10	2.54517E-09	)
+	(	11	2.42197E-09	)
+	(	12	2.31604E-09	)
+	(	13	2.22144E-09	)
+	(	14	2.13603E-09	)
+	(	15	2.06066E-09	)
+	(	16	1.99568E-09	)
+	(	17	1.93958E-09	)
+	(	18	1.89259E-09	)
+	(	19	1.85444E-09	)
+	(	20	1.82666E-09	)
+	(	21	1.80722E-09	)
+	(	22	1.7969E-09	)
+	(	23	1.79562E-09	)
+	(	24	1.80177E-09	)
+	(	25	1.81136E-09	)
+	(	26	1.82312E-09	)
+	(	27	1.83184E-09	)
+	(	28	1.83672E-09	)
+	(	29	1.83555E-09	)
+	(	30	1.82526E-09	)
+	(	31	1.8096E-09	)
+	(	32	1.78628E-09	)
+	(	33	1.75632E-09	)
+	(	34	1.7235E-09	)
+	(	35	1.68602E-09	)
+	(	36	1.64761E-09	)
+	(	37	1.60907E-09	)
+	(	38	1.57028E-09	)
+	(	39	1.53049E-09	)
+	(	40	1.49223E-09	)
+	(	41	1.45504E-09	)
+	(	42	1.41748E-09	)
+	(	43	1.38168E-09	)
+	(	44	1.34562E-09	)
+	(	45	1.31063E-09	)
+	(	46	1.27666E-09	)
+	(	47	1.24367E-09	)
+	(	48	1.21063E-09	)
+	(	49	1.17958E-09	)
+	(	50	1.1475E-09	)
+	(	51	1.11741E-09	)
+	(	52	1.08731E-09	)
+	(	53	1.05921E-09	)
+	(	54	1.03111E-09	)
+	(	55	1.004E-09	)
+	(	56	9.7901E-10	)
+	(	57	9.5522E-10	)
+	(	58	9.3273E-10	)
+	(	59	9.1186E-10	)
+	(	60	8.925E-10	)
+	(	61	8.7465E-10	)
+	(	62	8.581E-10	)
+	(	63	8.4287E-10	)
+	(	64	8.2885E-10	)
+	(	65	8.1581E-10	)
+	(	66	8.0378E-10	)
+	(	67	7.9266E-10	)
+	(	68	7.8235E-10	)
+	(	69	7.7264E-10	)
+	(	70	7.6364E-10	)
+	(	71	7.5524E-10	)
+	(	72	7.4734E-10	)
+	(	73	7.3995E-10	)
+	(	74	7.3285E-10	)
+	(	75	7.2636E-10	)
+	(	76	7.2008E-10	)
+	(	77	7.1419E-10	)
+	(	78	7.087E-10	)
+	(	79	7.0341E-10	)
+	(	80	6.9843E-10	)
+	(	81	6.9374E-10	)
+	(	82	6.8916E-10	)
+	(	83	6.8498E-10	)
+	(	84	6.809E-10	)
+	(	85	6.7702E-10	)
+	(	86	6.7333E-10	)
+	(	87	6.6985E-10	)
+	(	88	6.6647E-10	)
+	(	89	6.633E-10	)
+	(	90	6.6022E-10	)
+	(	91	6.5734E-10	)
+	(	92	6.5456E-10	)
+	(	93	6.5199E-10	)
+	(	94	6.4951E-10	)
+	(	95	6.4704E-10	)
+	(	96	6.4475E-10	)
+	(	97	6.4429E-10	)
+	(	98	6.4423E-10	)
+	(	99	6.4416E-10	)
+	(	100	6.442E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD19505KCS  1 2 3
ptrc1 = 9.50e-3
 .PARAM  ptrc1    9.50e-3  
ptrc2 = 2.50e-5
 .PARAM  ptrc2    2.50e-5
pwidthP = 10.734705882352941176470588235294
 .PARAM  pwidthP  10.734705882352941176470588235294
pwidth = 10.734705882352941176470588235294*1e6
 .PARAM  pwidth   {10.734705882352941176470588235294*1e6}
perimP = 2.1*10.734705882352941176470588235294
 .PARAM  perimP   {2.1*10.734705882352941176470588235294}
perim = 2.1*10.734705882352941176470588235294*1e6
 .PARAM  perim    {2.1*10.734705882352941176470588235294*1e6P*1e6}
M1   	10	11	12	12	NMOS	W={10.734705882352941176470588235294}	L=0.5u	PS={2.1*10.734705882352941176470588235294*1e6P}	PD={2.1*10.734705882352941176470588235294*1e6P}
xcgd	5	10	1	3	cgd
cgs		11	8	2.62744E-09
xcds	8	10	1	3	cds
DBD		3	1	DBD	{10.734705882352941176470588235294/5.788666666666666666666666666666666666666666666667}
LGG		2	5	2.1e-9
RGG		5	11	1.44
RSB		12	9	RTEMP	0.23166e-3
R		9	8	RTEMP	0.23166e-3
RSP		8	6	{0.45e-3+1.3e-3*0}
L		6	3	0.47e-9
RSL		6	3	0.5
RDD		7	10	RTEMP	0.99e-3
RDP		4	7	{0.5e-7+1.42e-6+0.28e-3+0.20e-3}
LDD		1	4	0.05e-9
.MODEL  NMOS   NMOS (
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.77        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.125
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.585e17
+ NSUB   = 1.0e16)
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18	gamma	=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
.MODEL DBD D (
+ CJO=7.50e-15	VJ=0.5		M=0.625	TNOM=25
+ FC=0.5		TT=2e-09 	XTI=3.3 BV=81
+ IS=5.0e-12 	N=1.06 		RS=1.60e-3
+ TRS1=4.0e-3)
.MODEL RTEMP RES (TC1={9.50e-3} TC2={2.50e-5})
.ENDS CSD19505KCS
